US05883049
A methanol (10 mL) solution of 2-(2,4-dichloro-5-methoxycarbonyloxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (0.50 g, 1.35 mmol) and potassium carbonate (0.19 g, 1.35 mmol) was stirred at 50°-60° C. for 2 hours. 1N Hydrochloric acid (20 mL) was added to the resulting mixture, and the organic layer was separated and then the aqueous layer was extracted with ethyl acetate (10 mL×2 times). The organic layer combined was washed with a saturated sodium chloride solution (30 mL) and dried over anhydrous magnesium sulfate. After removal of magnesium sulfate by filtration, the filtrate was evaporated to give a white solid of 2-(2,4-dichloro-5-hydroxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (0.34 g, yield:81.0%).

reactant | 2-(2,4-dichloro-5-methoxycarbonyloxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 1.35 mmol, 0.50 g | ClC1=C(C=C(C(=C1)Cl)OC(=O)OC)N1C(N2C(=CCCC2)C1=O)=O | C15H12Cl2N2O5
reactant | potassium carbonate | 1.35 mmol, 0.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | Hydrochloric acid | 1N, 20 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 2-(2,4-dichloro-5-hydroxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 0.34 g, yield:81.0% | ClC1=C(C=C(C(=C1)Cl)O)N1C(N2C(=CCCC2)C1=O)=O | C13H10Cl2N2O3
